US05484677
In a flask equipped with a stirring blade and a dropping funnel were charged 100 parts of dry methylene chloride and 60 parts of ethylenediamine, and the mixture was stirred in an ice bath. To the solution was slowly added 105 parts of methacrylic chloride through the dropping funnel. After the addition, the mixture was allowed to react at room temperature for 5 hours. The white precipitate thus formed was collected by filtration, thoroughly washed with dry methylene chloride, and dried to obtain aminoethylmethacrylamide hydrochloride. Then, 600 parts of ion-exchanged water, 10 parts of the resulting aminoethylmethacrylamide hydrochloride, and 1.0 part of an anionic surface active agent ("Perex OTP" produced by Kao Co., Ltd.) were charged in a flask equipped with a stirring blade and a tube for nitrogen introduction, followed by stirring. To the mixture was added 70 parts of methyl methacrylate to form an emulsion. To the emulsion was added 200 parts of a 3% aqueous solution of potassium persulfate, and the system was heated to 50° C., at which the emulsion was allowed to react for 24 hours. There were obtained fine particles of an aminoethylmethacrylamide hydrochloride/methyl methacrylate copolymer having an average particle size of 0.2 μm. The polymer particles were washed with water by means of a centrifugal separator. Then, 50.0 parts of the polymer particles was washed with a 5% sodium hydroxide aqueous solution to obtain fine particles of a methyl methacrylate copolymer having an amino group on the surface thereof.

reactant | aminoethylmethacrylamide hydrochloride | Cl.NCCC=C(C(=O)N)C
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
product | aminoethylmethacrylamide hydrochloride methyl methacrylate | Cl.NCCC=C(C(=O)N)C.C(C(=C)C)(=O)OC | InChI=1S/C6H12N2O.C5H8O2.ClH/c1-5(6(8)9)3-2-4-7;1-4(2)5(6)7-3;/h3H,2,4,7H2,1H3,(H2,8,9);1H2,2-3H3;1H
